US05380721
The product was prepared by the alkylation of 4-nitro-2-methoxyphenol (10.0 g, 0.059 mol) with ethyl bromoacetate (10.0 g, 0.06 mol) in acetonitrile (50 mL) in the presence of potassium carbonate (8.0 g) to afford 14.33 g (95%) of ethyl 4-nitro-2-methoxyphenoxyacetate as a yellow solid, m.p. 87°-88° C., after recrystallization from tert-butylmethyl ether; hydrogenation of the latter (13.08 g, 0.051 mol) in THF (125 mL)/ethanol (125 mL) in the presence of 10% Pd/C (1.0 g) to afford 11.5 g (100%) of ethyl 4-amino-2-methoxyphenoxyacetate as a pink oil; and then treatment of the latter (11.5 g, 0.051 mol) in CH2Cl2 (100 mL) with pyridine (10 mL), followed by methanesulfonyl chloride (6.43 g, 0.056 mol) to afford 12.328 g (79.6%) of N-[4-(ethoxycarbonylmethoxy)-3-(methoxy)phenyl]methanesulfonamide, m.p. 118°-119° C., after purification by treatment with charcoal and filtration through silica eluting with ethyl acetate.

reactant | 4-nitro-2-methoxyphenol | 0.059 mol, 10.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)OC | C7H7NO4
reactant | ethyl bromoacetate | 0.06 mol, 10.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | ethyl 4-nitro-2-methoxyphenoxyacetate | 14.33 g, 95% | [N+](=O)([O-])C1=CC(=C(OCC(=O)OCC)C=C1)OC | C11H13NO6
